US05962458
A solution of 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline hydrochloride (410 mg, 1.00 mmol), 4-(3-chloropropyl)pyridyl hydrochloride (480 mg, 2.5 mmol), potassium carbonate (480 mg) and potassium iodide (40 mg) in DMF (15 ml) was heated at 60° C. for 15 hours. After cooling to ambient temperature the reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried (MgSO4) and evaporated. The residue was diluted with methanol (10 ml) and 2M sodium hydroxide (2 ml) was added. After stirring for 1 hour, the reaction mixture was diluted with water (20 ml) and concentrated hydrochloric acid (0.5 ml) was added. The resulting solid was filtered off and was purified by preparative C18 HPLC using a gradient of methanol/water (0% to 80%) as eluant. After evaporation of the methanol, concentrated hydrochloric acid (0.3 ml) was added and the solution was evaporated to dryness. After trituration with acetone, the solid was filtered off and dried under vacuum to give 4-(2-fluoro-5-hydroxy-4-methylanilino)-6-methoxy-7-(4-pyridylpropoxy)quinazoline hydrochloride (243 mg, 48%).

reactant | 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline hydrochloride | 1.00 mmol, 410 mg | Cl.FC1=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C(C(=C1)C)OC(=O)OC
reactant | 4-(3-chloropropyl)pyridyl hydrochloride | 2.5 mmol, 480 mg | ClCCCC1=CC(=NC=C1)Cl | C8H9Cl2N
reactant | potassium carbonate | 480 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 40 mg | [I-].[K+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 4-(2-fluoro-5-hydroxy-4-methylanilino)-6-methoxy-7-(4-pyridylpropoxy)quinazoline hydrochloride | 243 mg, 48% | Cl.FC1=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCCC2=CC=NC=C2)C=C(C(=C1)C)O | InChI=1S/C24H23FN4O3.ClH/c1-15-10-18(25)20(12-21(15)30)29-24-17-11-22(31-2)23(13-19(17)27-14-28-24)32-9-3-4-16-5-7-26-8-6-16;/h5-8,10-14,30H,3-4,9H2,1-2H3,(H,27,28,29);1H
